US08232294B2
Step 1) (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-((benzyloxycarbonyl)-(methyl)amino)acetate
To a mixture of (R)-1-(2-hydroxypropyl)-N-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-yl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (2.0 g, 3.81 mmol), N-Cbz-sarcosine (1.7 g, 7.62 mmol) and DMAP (0.93 g, 7.62 mmol, Aladdin) in 15 mL of CH2Cl2 at 0° C. was added EDC solid (2.19 g, 11.43 mmol, Aladdin) in portions. After stirring at 0° C. for 2 hrs, the mixture was allowed to heat to 40° C. and stirred overnight. The reaction was diluted with 100 mL of CH2Cl2. The resulted solution was washed with 0.1 N HCl (10 mL×2), saturated NaHCO3 (20 mL×2) and followed by water (20 mL). The organic phase was dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc/MeOH=4/1) to give the title compound as a yellow solid (2.15 g, 77.3%).

reactant | (R)-1-(2-hydroxypropyl)-N-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-yl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 3.81 mmol, 2.0 g | O[C@@H](CN1N(C(C(=C1C)C(=O)NC1=NC=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)=O)C1=CC=CC=C1)C | C29H27N5O5
reactant | N-Cbz-sarcosine | 7.62 mmol, 1.7 g | C(=O)(OCC1=CC=CC=C1)N(C)CC(=O)O | C11H13NO4
reactant | EDC | 11.43 mmol, 2.19 g
catalyst | DMAP | 7.62 mmol, 0.93 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-((benzyloxycarbonyl)-(methyl)amino)acetate | 2.15 g, 77.3% | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=NC=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)=O)=O)C1=CC=CC=C1)C)C | C40H38N6O8
